US05843973
N-[Trans-4-(2-nitroxyethyl)cyclohexylmethl]-(4R)-2-oxothiazolidin-4-yl-carboxamide (Exemplary Compound No. 1-169)
In 20 ml of anhydrous tetrahydrofuran was suspended 191 mg of (4R)-2-oxo-4-thiazolidinecarboxylic acid and 294 mg of trans-4-(2-nitroxyethyl)cyclohexylmethylamine hydrochloride, and 0.54 ml of triethylamine and 0.28 ml of diphenylphosphoric azide were added thereto with stirring under ice-cooling, and the resulting mixture was stirred at room temperature for 4 hours. The solvent was distilled off under reduced pressure, and the residue was purified by silica gel column chromatography (eluting solvent: cyclohexane/ethyl acetate=1/3) and recrystallizated from dichloromethane-diisopropyl ether to obtain 200 mg of the desired compound as a colorless crystalline solid.

reactant | (4R)-2-oxo-4-thiazolidinecarboxylic acid | 191 mg | O=C1SC[C@H](N1)C(=O)O | C4H5NO3S
reactant | trans-4-(2-nitroxyethyl)cyclohexylmethylamine hydrochloride | 294 mg | Cl.O([N+](=O)[O-])CC[C@@H]1CC[C@H](CC1)CN
reactant | triethylamine | 0.54 ml | C(C)N(CC)CC | C6H15N
reactant | diphenylphosphoric azide | 0.28 ml | C1=CC=C(C=C1)OP(=O)(N=[N+]=[N-])OC2=CC=CC=C2 | C12H10N3O3P
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
product | N-[Trans-4-(2-nitroxyethyl)cyclohexylmethl]-(4R)-2-oxothiazolidin-4-yl-carboxamide | 200 mg | O([N+](=O)[O-])CC[C@@H]1CC[C@H](CC1)CNC(=O)[C@H]1NC(SC1)=O | C13H21N3O5S
